US05753664
3-Methyl-2-[4-[6-(4-piperidinopiperidino)nicotinoyl]benzylthio]-4H-pyrido[1,2-a]pyrimidin-4-one trihydrochloride
A solution of 2-[4-(6-chloronicotinoyl)benzylthio]-3-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one (287 mg), 4-piperidinopiperidine (137 mg) and potassium carbonate (194 mg) in DMF (10 ml) was stirred at 80° C. for 24 hours. This reaction mixture was concentrated and the residue was dissolved in chloroform. The solution was washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (chloroform-methanol =9:1) and treated with hydrogen chloride/ethyl acetate to provide the title compound as colorless solid (28 mg).

reactant | 2-[4-(6-chloronicotinoyl)benzylthio]-3-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one | 287 mg | ClC1=NC=C(C(=O)C2=CC=C(CSC=3N=C4N(C(C3C)=O)C=CC=C4)C=C2)C=C1 | C22H16ClN3O2S
reactant | 4-piperidinopiperidine | 137 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | potassium carbonate | 194 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Methyl-2-[4-[6-(4-piperidinopiperidino)nicotinoyl]benzylthio]-4H-pyrido[1,2-a]pyrimidin-4-one trihydrochloride | 28 mg | Cl.Cl.Cl.CC1=C(N=C2N(C1=O)C=CC=C2)SCC2=CC=C(C=C2)C(C2=CN=C(C=C2)N2CCC(CC2)N2CCCCC2)=O | InChI=1S/C32H35N5O2S.3ClH/c1-23-31(34-29-7-3-6-18-37(29)32(23)39)40-22-24-8-10-25(11-9-24)30(38)26-12-13-28(33-21-26)36-19-14-27(15-20-36)35-16-4-2-5-17-35;;;/h3,6-13,18,21,27H,2,4-5,14-17,19-20,22H2,1H3;3*1H
